US07253190B2
5-(3-Bromophenyl)-2H-tetrazole (448 mg, 2.0 mmol) was stirred in anhydrous MeOH (15 mL) under argon at ambient temperature. To this was added NaOMe (4 mL of 0.5M solution in MeOH, 2.0 mmol), and the reaction flask was cooled to −78° C. A solution of N-fluoropyridinium triflate (331 mg, 1.0 mmol) in anhydrous MeOH (2 mL) was then added dropwise via syringe. The resulting reaction mixture was stirred at −78° C. for 30 min, then warmed to ambient temperature and stirred for an additional 3 h. The reaction mixture was partitioned between EtOAc (150 mL) and 10% aqueous NaHCO3 (50 mL). The EtOAc layer was washed with additional 10% aqueous NaHCO3 (2×50 mL), and the combined aqueous layers were back extracted with EtOAc (100 mL). The EtOAc layers were combined, dried (MgSO4), filtered and concentrated in vacuo. The crude material was then chromatographed on silica gel eluting with hexanes:EtOAc (3:1) to afford 2-[5-(3-bromophenyl)-2H-tetrazol-2-yl]pyridine as a white solid.

reactant | 5-(3-Bromophenyl)-2H-tetrazole | 2.0 mmol, 448 mg | BrC=1C=C(C=CC1)C=1N=NNN1 | C7H5BrN4
reactant | NaOMe | 2.0 mmol, 0.5M, 4 mL | C[O-].[Na+]
reactant | N-fluoropyridinium triflate | 1.0 mmol, 331 mg | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
solvent | MeOH | 15 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
product | 2-[5-(3-bromophenyl)-2H-tetrazol-2-yl]pyridine | BrC=1C=C(C=CC1)C=1N=NN(N1)C1=NC=CC=C1 | C12H8BrN5
